US07847100B2
To a solution of 3-(N-methyl-N-(methylsulfonyl)amino)-5-bromo-N—((R)-1-(4-fluorophenyl)ethyl)benzamide (200 mg, 0.46 mmol), copper(I)iodide (3.6 mg, 0.019 mmol), bis(tri-t-butylphosphine) palladium (0) (14 mg, 0.028 mmol) and tris(dibenzylide acetone) dipalladium (0) chloroform adduct (14.2 mg, 0.014 mmol) in 0.5 mL degassed dioxane was added diisopropylamine (0.084 mL, 0.60 mmol) and (trimethylsilyl)acetylene (0.085 mL, 0.60 mmol). The reaction was stirred at rt overnight and then heated to 60° C. for an additional night. The mixture was diluted with EtOAc and filtered through celite. Concentration and flash chromatography (10-50% EtOAc/hexanes) gave 3-(N-methyl-N-(methylsulfonyl)amino)-N—((R)-1-(4-fluorophenyl)ethyl)-5-(2-trimethylsilyl)ethynyl)benzamide. 1H NMR (CDCl3) δ 7.77 (m, 1H), 7.67 (m, 1H), 7.61 (m, 1H), 7.35 (m, 2H), 7.05 (m, 2H), 6.28 (d, J=7.3 Hz, 1H), 5.29 (m, 1H), 3.33 (s, 3H), 2.86 (s, 3H), 1.60 (d, J=7.0 Hz, 3H), 0.26 (s, 9H).

reactant | 3-(N-methyl-N-(methylsulfonyl)amino)-5-bromo-N—((R)-1-(4-fluorophenyl)ethyl)benzamide | 0.46 mmol, 200 mg | CN(S(=O)(=O)C)C=1C=C(C(=O)N[C@H](C)C2=CC=C(C=C2)F)C=C(C1)Br | C17H18BrFN2O3S
reactant | acetone | CC(=O)C | C3H6O
reactant | diisopropylamine | 0.60 mmol, 0.084 mL | C(C)(C)NC(C)C | C6H15N
reactant | (trimethylsilyl)acetylene | 0.60 mmol, 0.085 mL | C[Si](C)(C)C#C | C5H10Si
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper(I)iodide | 0.019 mmol, 3.6 mg | [Cu]I
catalyst | bis(tri-t-butylphosphine) palladium (0) | 0.028 mmol, 14 mg | [Pd].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
catalyst | dipalladium (0) chloroform | 0.014 mmol, 14.2 mg | C(Cl)(Cl)Cl.[Pd].[Pd]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
